US05395934
2-Benzyloxymethyl-5-chloro-4-{3-[N-[2-[4-[(methylsulfonyl)-amino]-phenoxy]-ethyl]-N-methylamino]-propylamino}-3(2H)-pyridazinone
A mixture of 3.2 g (9.5 mmoles) of 2-benzyloxymethyl-5-chloro-4-[3-(N-methylamino)-propylamino]-3(2H)-pyridazinone, 3.56 g (14.25 mmoles) of 4-[(methylsulfonyl)-amino]-phenoxyethyl chloride and 2 ml (14.25 mmoles) of triethylamine is melted at a temperature of 80° C. for 16 hours. Then it is subjected to column chromatography using first ethyl acetate, then a 9:1:0.5 mixture of ethyl acetate--methanol--cc. ammonia. Thus 1.8 g (69%) of the aimed compound are obtained. Rf =0.7.

reactant | 2-benzyloxymethyl-5-chloro-4-[3-(N-methylamino)-propylamino]-3(2H)-pyridazinone | 9.5 mmoles, 3.2 g | C(C1=CC=CC=C1)OCN1N=CC(=C(C1=O)NCCCNC)Cl | C16H21ClN4O2
reactant | 4-[(methylsulfonyl)-amino]-phenoxyethyl chloride | 14.25 mmoles, 3.56 g | CS(=O)(=O)NC1=CC=C(OCCCl)C=C1 | C9H12ClNO3S
reactant | triethylamine | 14.25 mmoles, 2 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxymethyl-5-chloro-4-{3-[N-[2-[4-[(methylsulfonyl)-amino]-phenoxy]-ethyl]-N-methylamino]-propylamino}-3(2H)-pyridazinone | 1.8 g, 69% | C(C1=CC=CC=C1)OCN1N=CC(=C(C1=O)NCCCN(C)CCOC1=CC=C(C=C1)NS(=O)(=O)C)Cl | C25H32ClN5O5S
